US05854273
Stage A: Ethyl naphthalen-1-ylacrylate
220 ml of a 1N solution of potassium tert-butoxide in tetrahydrofuran are added dropwise to a solution of 0.219 mol of ethoxycarbonyltriphenylphosphonium bromide in 200 ml of tetrahydrofuran. The medium is stirred for 1 h at room temperature, after which a solution of 0.22 mol of naphthalene-1-carboxaldehyde in tetrahydrofuran is added dropwise. The medium is stirred for 4 h at room temperature, filtered, the solvent is evaporated off and the residue is taken up in 400 ml of methylene chloride. The organic phase is washed with 100 ml of water, dried and concentrated. The residue is taken up in diisopropyl ether, the precipitate is filtered off and the expected product is obtained after concentration of the solvent.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ethoxycarbonyltriphenylphosphonium bromide | 0.219 mol | [Br-].C(C)OC(=O)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | naphthalene-1-carboxaldehyde | 0.22 mol | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Ethyl naphthalen-1-ylacrylate | C1(=CC=CC2=CC=CC=C12)C(C(=O)OCC)=C | C15H14O2
